US09447078B2
Preparation of (R)-3-amino-1-(6-(cycloheptylmethoxy)pyridin-2-yl)propan-1-ol
LiAlH4 reduction of (R)-3-(6-(cycloheptylmethoxy)pyridin-2-yl)-3-hydroxypropanenitrile following the method described in Example 1 gave after flash chromatography purification (20%-30% 7N NH3/MeOH—CH2Cl2 gradient) Example 31 as a colorless oil. Yield (0.11 g, 25%); 1H NMR (400 MHz, DMSO-d6) δ 7.60 (t, J=8.0 Hz, 1H), 7.00 (d, J=6.8 Hz, 1H), 6.67 (d, J=7.6 Hz, 1H), 4.56-4.50 (m, 1H), 4.02-3.98 (m, 2H), 2.72-2.60 (m, 2H), 1.92-1.6 (m, 15H); RP-HPLC tR=9.59 min; ESI-MS m/z 279.2 [M+H]+.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (R)-3-(6-(cycloheptylmethoxy)pyridin-2-yl)-3-hydroxypropanenitrile | C1(CCCCCC1)COC1=CC=CC(=N1)[C@@H](CC#N)O | C16H22N2O2
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | (R)-3-amino-1-(6-(cycloheptylmethoxy)pyridin-2-yl)propan-1-ol | NCC[C@@H](O)C1=NC(=CC=C1)OCC1CCCCCC1 | C16H26N2O2
